US08022062B2
(4-Hydroxybenzyl)-carbamic acid tert-butyl ester:
Mix 2,2,2-trifluoro-N-(4-hydroxybenzyl)-acetamide (8.8 g, 40 mmol), and 5N aqueous NaOH (20 mL) in methanol (100 mL). Stir at ambient temperature for 4 h. Adjust pH to about 8 with aqueous HCl. Add solid sodium bicarbonate (4.4 g, 52 mmol), di-tert-butyl-dicarbonate (9.3 g, 40 mmol) and DCM. Stir at ambient temperature for 16 h. Dilute with DCM, wash with 1N aqueous HCl and purify by chromatography on silica gel eluting with hexane/EtOAc (9:1 to 5:5) to obtain the desired intermediate (7.8 g, 87%). MS (ES−) m/z: 222 (M−H)−.

reactant | 2,2,2-trifluoro-N-(4-hydroxybenzyl)-acetamide | 40 mmol, 8.8 g | FC(C(=O)NCC1=CC=C(C=C1)O)(F)F | C9H8F3NO2
reactant | NaOH | 5N, 20 mL | [OH-].[Na+]
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | 52 mmol, 4.4 g | C([O-])(O)=O.[Na+]
reactant | di-tert-butyl-dicarbonate | 40 mmol, 9.3 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | methanol | 100 mL | CO | CH4O
solvent | DCM | C(Cl)Cl | CH2Cl2
product | (4-Hydroxybenzyl)-carbamic acid tert-butyl ester | 7.8 g, 87% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)O)=O | C12H17NO3
